US07923450B2
a) 6-[1-Dimethylamino-methylidene]-2-(3-trifluoromethyl-phenyl)-cyclohexanone
2-(3-Trifluoromethyl-phenyl)-cyclohexanone (106 mg, 0.44 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a), to give crude title compound (132 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 298.0 [(M+H)+]

reactant | 2-(3-Trifluoromethyl-phenyl)-cyclohexanone | 0.44 mmol, 106 mg | FC(C=1C=C(C=CC1)C1C(CCCC1)=O)(F)F | C13H13F3O
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-(3-trifluoromethyl-phenyl)-cyclohexanone | 132 mg | CN(C=C1CCCC(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C16H18F3NO
